US04621095
A mixture of 25 g (0.2 mol) of 3-chloro-2-chloromethyl-propene, 27.6 g (0.4 mol) of 1,2,4-triazole and 27.6 g (0.2 mol) of potassium carbonate in 200 ml of acetone is heated under reflux for 15 hours. After cooling, the mixture is filtered and the filtrate is concentrated in vacuo. The oily residue is chromatographed (silica gel 60, Merck, chloroform). 23 g (63% of theory) of 3-(1,2,4-triazol-1-yl)-2-(1,2,4-triazol-1-yl-methyl)-propene of melting point 52° C. are obtained.

reactant | 3-chloro-2-chloromethyl-propene | 0.2 mol, 25 g | ClCC(=C)CCl | C4H6Cl2
reactant | 1,2,4-triazole | 0.4 mol, 27.6 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 3-(1,2,4-triazol-1-yl)-2-(1,2,4-triazol-1-yl-methyl)-propene | 23 g, 63% | N1(N=CN=C1)CC(=C)CN1N=CN=C1 | C8H10N6
